US07947692B2
A mixture of Piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide trifluoroacetate salt (1.56 g, 3.82 mmol), diisopropylethylamine (2.7 mL, 15.5 mmol) in N,N-dimethylformamide (15 mL) was stirred at room temperature for 30 minutes. To the mixture was added potassium carbonate (0.8 g, 5.8 mmole) and Bromo-(3-chloro-phenyl)-acetic acid methyl ester (1.0 g, 3.8 mmol) and the resulting mixture was stirred at room temperature overnight. Filtration and concentration gave a solid which was dissolved in methanol and absorbed onto 2 g of silica gel. The silica gel was loaded onto an Isco 120 g column and eluted using 0→5% Methanol/methylene chloride to yield (3-Chloro-phenyl)-[4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazin-1-yl]-acetic acid methyl ester as a white powder; LRMS for C20H21ClN6O4S (M+H)+ at m/z=477. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | Piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide trifluoroacetate salt | 3.82 mmol, 1.56 g | FC(C(=O)O)(F)F.COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCNCC2
reactant | diisopropylethylamine | 15.5 mmol, 2.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium carbonate | 5.8 mmole, 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromo-(3-chloro-phenyl)-acetic acid methyl ester | 3.8 mmol, 1.0 g | COC(C(C1=CC(=CC=C1)Cl)Br)=O | C9H8BrClO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | (3-Chloro-phenyl)-[4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazin-1-yl]-acetic acid methyl ester | COC(C(N1CCN(CC1)C(NC=1SC=2N=CN=C(C2N1)OC)=O)C1=CC(=CC=C1)Cl)=O | C20H21ClN6O4S
